US05576322
2-Methylthio-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
20 ml of N,N-dimethylformamide and 221 mg of sodium thiomethoxide were added to 1 g of 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline. The obtained mixture was stirred at 110° C. for one hour, neutralized with 1N hydrochloric acid and stirred at room temperature for one hour, followed by the addition of water. The crystals thus precipitated were recovered by filtration to give 780 mg of the title compound.

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium thiomethoxide | 221 mg | C[S-].[Na+]
reactant | 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline | 1 g | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C16H11Cl2N3O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | 2-Methylthio-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 780 mg | CSC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H14ClN3O2S
